US09169242B2
Step 3: (3-Bromo-4-methylphenyl)(3,3-dimethyloxiran-2-yl)methanone:
To a cooled solution (at 0° C.) of 1-(3-bromo-4-methylphenyl)-3-methylbut-2-en-1-one (1.50 g, 5.92 mmol, 1.0 eq) in DCM (100 mL), m-chloroperbenzoic acid (77%, 4.30 g, 17.78 mmol, 3.0 eq) was added portion wise and then allowed to warm to room temperature. After stirring for 12 h at room temperature water was added to the reaction mixture and the layers were separated. The organic layer was washed with saturated aqueous solution of sodium bicarbonate (3×50 mL) followed by brine (50 mL) and then dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum. The crude product was purified by flash column chromatography (silica gel, 5% ethyl acetate in hexane) to afford 1.60 g of the desired product, as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.13 (d, J=1.5 Hz, 1H), 7.81 (dd, J=1.5, 8.0 Hz, 1H), 7.36 (d, J=8.0 Hz, 1H), 3.99 (s, 1H), 2.47 (s, 3H), 1.58 (s, 3H), 1.23 (s, 3H); ESI-MS (m/z) 269, 271 [(MH)+, Br79,81].

reactant | 1-(3-bromo-4-methylphenyl)-3-methylbut-2-en-1-one | 5.92 mmol, 1.50 g, 1.0 eq | BrC=1C=C(C=CC1C)C(C=C(C)C)=O | C12H13BrO
reactant | m-chloroperbenzoic acid | 17.78 mmol, 4.30 g, 3.0 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (3-Bromo-4-methylphenyl)(3,3-dimethyloxiran-2-yl)methanone | 1.60 g | BrC=1C=C(C=CC1C)C(=O)C1OC1(C)C | C12H13BrO2
